US07709466B2
4-(3-Bromo-1H-indol-2-yl)-6-(4-hydroxy-3,5-dimethyl-phenyl)-2H-pyridazin-3-one
10 mg of 6-(4-hydroxy-3,5-dimethyl-phenyl)-4-(1H-indol-2-yl)-2H-pyridazin-3-one is dissolved in 400 μl of acetone and 5.3 mg of N-bromosuccinimide is added. The solution is stirred at RT for 20 min and the product is purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). Yield 4 mg. LC-MS (ES+) 409/411 (M)+.

reactant | 6-(4-hydroxy-3,5-dimethyl-phenyl)-4-(1H-indol-2-yl)-2H-pyridazin-3-one | 10 mg | OC1=C(C=C(C=C1C)C=1C=C(C(NN1)=O)C=1NC2=CC=CC=C2C1)C | C20H17N3O2
reactant | N-bromosuccinimide | 5.3 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetone | 400 μl | CC(=O)C | C3H6O
product | 4-(3-Bromo-1H-indol-2-yl)-6-(4-hydroxy-3,5-dimethyl-phenyl)-2H-pyridazin-3-one | BrC1=C(NC2=CC=CC=C12)C=1C(NN=C(C1)C1=CC(=C(C(=C1)C)O)C)=O | C20H16BrN3O2
